data/oMe_Silver.jsonl
{"reaction_id": "NR-238_1-c2ccccc2_2-C(C)C_3-C(C)C_4-c2ccc(Cl)cc2","level": "medium","name": "Steglich Esterification","reactants_smiles": ["c2ccccc2C(=O)O","C(C)CN=C=Nc2ccc(Cl)cc2","C(C)CO","CN(C)c1ccncc1"],"products_smiles": ["C(C)COC(=O)c2ccccc2"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c2ccccc2C(=O)OC(=[NH+]C(C)C)Nc2ccc(Cl)cc2","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)c2ccccc2","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(OC(C)C)c2ccccc2","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)COC(=O)c2ccccc2","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
{"reaction_id": "NR-324_1-c1ccc(OC)cc1_2-c1ccccc1_3-OC_4-CC_5-c1ccc(F)cc1","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccc(OC)cc1C(c1ccccc1)=C(OC)C(CC)c1ccc(F)cc1","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccc(OC)cc1C(c1ccccc1)=C(OC)C(CC)(c1ccc(F)cc1)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(OC)cc1C(c1ccccc1)=C(OC)[C](CC)c1ccc(F)cc1","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccc(OC)cc1C(c1ccccc1)=C(OC)C(CC)(c1ccc(F)cc1)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
